US05674891
1-(7-tert-Butyl-3,3-dimethyl-2,3 -dihydrobenzo[b]furan-5-yl)-2-chloroethan-1-one.
A mixture of benzyltrimethylammonium dichloroiodate (18.18 g, 52.2 mmol), 1-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-ethan-1-one (6.65 g, 27.0 mmol), 325 mL of 1,2-dichloroethane, and 130 mL of methanol is heated at reflux for 1.5 h. The reaction mixture is cooled to room temperature and concentrated in vacuo; 5% aqueous sodium bisulfite solution (126 mL) is added to the residue obtained. This mixture is extracted with ether and the extract is dried over anhydrous magnesium sulfate and concentrated to afford 8.38 g of the title compound as a reddish solid.

reactant | benzyltrimethylammonium dichloroiodate | 52.2 mmol, 18.18 g | I(=O)(=O)Cl.I(=O)(=O)Cl.C(C1=CC=CC=C1)[N+](C)(C)C
reactant | 1-(7-tert-butyl-3,3-dimethyl-2,3-dihydrobenzo[b]furan-5-yl)-ethan-1-one | 27.0 mmol, 6.65 g | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C(C)=O | C16H22O2
reactant | 1,2-dichloroethane | 325 mL | ClCCCl | C2H4Cl2
solvent | methanol | 130 mL | CO | CH4O
product | 1-(7-tert-Butyl-3,3-dimethyl-2,3 -dihydrobenzo[b]furan-5-yl)-2-chloroethan-1-one | 8.38 g | C(C)(C)(C)C1=CC(=CC2=C1OCC2(C)C)C(CCl)=O | C16H21ClO2
